US07915411B2
N′-(3-Cyano-pyridin-2-yl)-N,N-dimethyl-formamidine
A solution of 2-Amino-nicotinonitrile (5 g, 42 mmol) and N,N-Dimethylformamide dimethyl acetal (6.13 mL, 46.2 mmol) in toluene (20 mL) was heated at reflux for 3 hours. After cooling to room temperature, the solution was concentrated under vacuum to provide the title compound (7.3 g, 100%).

reactant | 2-Amino-nicotinonitrile | 42 mmol, 5 g | NC1=C(C#N)C=CC=N1 | C6H5N3
reactant | N,N-Dimethylformamide dimethyl acetal | 46.2 mmol, 6.13 mL | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N′-(3-Cyano-pyridin-2-yl)-N,N-dimethyl-formamidine | 7.3 g, 100% | C(#N)C=1C(=NC=CC1)N=CN(C)C | C9H10N4
